US08975254B2
b) Ethyl 3-(methoxymethyl)-1H-pyrazole-5-carboxylate
Ethyl 5-methoxy-2,4-dioxopentanoate (2.168 g, 11.52 mmol) was dissolved in ethanol (100 ml) and hydrazine dihydrochloride (4.84 g, 46.1 mmol) was added. The resulting mixture was refluxed for 2 h. 200 ml of water was added and the pH of the mixture was neutralized with NaHCO3. The mixture was extracted with ethyl acetate. The combined organic phases were washed with brine, dried with Na2SO4, filtered and evaporated. The product was used in the next step without further purification. 1H-NMR (400 MHz; DMSO-d6): δ 1.29 (t, 3H), 3.26 (s, 3H), 4.27 (q, 2H), 4.42 (s, 2H), 6.72 (s, 1H), 13.62 (s, 1H).

reactant | Ethyl 5-methoxy-2,4-dioxopentanoate | 11.52 mmol, 2.168 g | COCC(CC(C(=O)OCC)=O)=O | C8H12O5
reactant | hydrazine dihydrochloride | 46.1 mmol, 4.84 g | Cl.Cl.NN
reactant | water | 200 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 3-(methoxymethyl)-1H-pyrazole-5-carboxylate | COCC1=NNC(=C1)C(=O)OCC | C8H12N2O3
